US04076821
A mixture of 4.1 g of 4,4-diphenylcyclohexyl tosylate, 2.8 g of 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol, 1.1 g of sodium carbonate and 400 ml of toluene is stirred under reflux for 48 hours. The reaction mixture is concentrated completely under reduced pressure, water is added to the residue, and the aqueous mixture is extracted with chloroform. The extract is washed with water and dried over sodium sulfate, and the solvent is removed. The esidual viscous oil is purified by column chromatography on silica gel using chloroform and then chloroform - methanol (9:1) as an eluent. The purified base is converted in a conventional manner into the hydrochloride. Thus is obtained 1-(4,4-diphenylcyclohexyl)-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride monohydrate as white crystals, melting at 270°-273° C.

reactant | 4,4-diphenylcyclohexyl tosylate | 4.1 g | S(=O)(=O)(OC1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C)C=C1 | C25H26O3S
reactant | 4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol | 2.8 g | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4,4-diphenylcyclohexyl)-4-(4-chloro-3-trifluoromethylphenyl)-4-piperidinol hydrochloride monohydrate | O.Cl.C1(=CC=CC=C1)C1(CCC(CC1)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C30H31ClF3NO.ClH.H2O/c31-27-12-11-24(21-26(27)30(32,33)34)29(36)17-19-35(20-18-29)25-13-15-28(16-14-25,22-7-3-1-4-8-22)23-9-5-2-6-10-23;;/h1-12,21,25,36H,13-20H2;1H;1H2
